### PR TITLE
[Merged by Bors] - chore: move to v4.11.0-rc2 (new `variable` command)

### PR DESCRIPTION
**Pull request by kim-em**

### CODE REVIEW

**Review by Parcly-Taxel — APPROVED** [review]

**Comment by semorrison** [comment]
Looking at the declarations diff above, it actually looks okay: `biprod_lift_id_sub_id` has vanished, intentionally (it was awkward to arrange the `variable`s, and Jöel (I think) just inlined it).

**Comment by dagurtomas** [comment]
> Looking at the declarations diff above, it actually looks okay: `biprod_lift_id_sub_id` has vanished, intentionally (it was awkward to arrange the `variable`s, and Jöel (I think) just inlined it).

What about this `Obj` stuff?

**Comment by edegeltje** [comment]
> What about this `Obj` stuff?

i believe that might be an unneeded part of the `fun_prop_dev` test? the file was adapted by @lecopivo who worked on the tactic (as far as i can tell), so i'd expect that to be an acceptable change. if you want specifics, i'm sure they can provide them?

File: Mathlib/CategoryTheory/Localization/CalculusOfFractions/Preadditive.lean [hunk 1]
```diff
@@ -36,7 +36,7 @@ namespace CategoryTheory
 open MorphismProperty Preadditive Limits Category
 
 variable {C D : Type*} [Category C] [Category D] [Preadditive C] (L : C ⥤ D)
-  {W : MorphismProperty C} [L.IsLocalization W] [W.HasLeftCalculusOfFractions]
+  {W : MorphismProperty C} [L.IsLocalization W] -- [W.HasLeftCalculusOfFractions]
```
Comment (semorrison) [inline Mathlib/CategoryTheory/Localization/CalculusOfFractions/Preadditive.lean:39]:
```suggestion
  {W : MorphismProperty C} [L.IsLocalization W]
```

**Comment by dagurtomas** [comment]
> > What about this `Obj` stuff?
> 
> i believe that might be an unneeded part of the `fun_prop_dev` test? the file was adapted by @lecopivo who worked on the tactic (as far as i can tell), so i'd expect that to be an acceptable change. if you want specifics, i'm sure they can provide them?

I don't need specifics, just making sure that people who know about this are ok with its removal. 
Then I guess the declarations diff above is completely fine.

File: Mathlib/Order/Bounds/Basic.lean [hunk 2]
```diff
@@ -1009,6 +1009,7 @@ end MonotoneOn
 namespace AntitoneOn
 
 variable [Preorder α] [Preorder β] {f : α → β} {s t : Set α} {a : α}
+  -- (Hf : AntitoneOn f t) (Hst : s ⊆ t)
```
Comment (semorrison) [inline Mathlib/Order/Bounds/Basic.lean:1012]:
```suggestion
```

File: Mathlib/RingTheory/Localization/Basic.lean [hunk 3]
```diff
@@ -684,8 +694,8 @@ protected lemma bijective (f : S →+* Q) (hf : f.comp (algebraMap R S) = algebr
 end AlgEquiv
 
 section at_units
-
-lemma at_units {R : Type*} [CommSemiring R] (S : Submonoid R)
+lemma at_units -- {R : Type*} [CommSemiring R]
+    (S : Submonoid R)
```
Comment (semorrison) [inline Mathlib/RingTheory/Localization/Basic.lean:698]:
```suggestion
lemma at_units (S : Submonoid R)
```

File: Mathlib/RingTheory/Localization/Basic.lean [hunk 4]
```diff
@@ -1091,7 +1100,8 @@ variable [Algebra Rₘ Sₘ] [Algebra R Sₘ] [IsScalarTower R Rₘ Sₘ] [IsSca
 variable (S Rₘ Sₘ)
 
 theorem IsLocalization.map_units_map_submonoid
-    [IsLocalization (Algebra.algebraMapSubmonoid S M) Sₘ] (y : M) :
+    --[IsLocalization (Algebra.algebraMapSubmonoid S M) Sₘ]
```
Comment (semorrison) [inline Mathlib/RingTheory/Localization/Basic.lean:1103]:
```suggestion
```

File: Mathlib/RingTheory/Localization/Basic.lean [hunk 5]
```diff
@@ -574,20 +580,11 @@ theorem map_mk' (x) (y : M) : map Q g hy (mk' S x y) = mk' Q (g x) ⟨g y, hy y.
...
-@[simp]
-theorem map_id (z : S) (h : M ≤ M.comap (RingHom.id R) := le_refl M) :
-    map S (RingHom.id _) h z = z :=
-  lift_id _
-
 theorem map_unique (j : S →+* Q) (hj : ∀ x : R, j (algebraMap R S x) = algebraMap P Q (g x)) :
     map Q g hy = j :=
   lift_unique (fun y => map_units _ ⟨g y, hy y.2⟩) hj
 
+
```
Comment (semorrison) [inline Mathlib/RingTheory/Localization/Basic.lean:587]:
```suggestion
```

File: test/fun_prop_dev.lean [hunk 6]
```diff
@@ -25,19 +25,13 @@ set_option linter.unusedVariables false
...
-@[fun_prop] opaque Con {α β} [Obj α] [Obj β] (f : α → β) : Prop
-@[fun_prop] opaque Lin {α β} [Obj α] [Obj β] (f : α → β) : Prop
+@[fun_prop] opaque Con {α β} (f : α → β) : Prop
+@[fun_prop] opaque Lin {α β} (f : α → β) : Prop
 
 -- state basic lambda calculus rules --
 ---------------------------------------
 
-variable [Obj α] [Obj β] [Obj γ] [Obj δ] [∀ x, Obj (E x)]
+-- variable [Obj α] [Obj β] [Obj γ] [Obj δ] [∀ x, Obj (E x)]
```
Comment (semorrison) [inline test/fun_prop_dev.lean:34]:
```suggestion
```

File: Mathlib/AlgebraicGeometry/Properties.lean [hunk 7]
```diff
@@ -230,7 +230,7 @@ instance irreducibleSpace_of_isIntegral [IsIntegral X] : IrreducibleSpace X := b
     · rintro ⟨hS, hT⟩
       cases' h₁ (show x ∈ ⊤ by trivial) with h h
       exacts [hS h, hT h]
-    · simp
+    · exact False.elim
```
Comment (Ruben-VandeVelde) [inline Mathlib/AlgebraicGeometry/Properties.lean:233]: Pretty sure this will still work
```suggestion
    · simp
```

File: Mathlib/Combinatorics/Additive/AP/Three/Behrend.lean [hunk 8]
```diff
@@ -156,7 +156,6 @@ theorem map_injOn : {x : Fin n → ℕ | ∀ i, x i < d}.InjOn (map d) := by
   intro x₁ hx₁ x₂ hx₂ h
   induction' n with n ih
   · simp [eq_iff_true_of_subsingleton]
-  rw [forall_const] at ih
```
Comment (Ruben-VandeVelde) [inline Mathlib/Combinatorics/Additive/AP/Three/Behrend.lean:159]: Backport the changes in this file in #15735

File: Mathlib/LinearAlgebra/BilinearForm/Properties.lean [hunk 9]
```diff
@@ -413,6 +413,9 @@ theorem dualBasis_repr_apply
     (B.dualBasis hB b).repr x i = B x (b i) := by
   rw [dualBasis, Basis.map_repr, LinearEquiv.symm_symm, LinearEquiv.trans_apply,
     Basis.dualBasis_repr]
+  #adaptation_note
+  /-- Before leanprover/lean4#4814, we had a final `toDual_def` in the `rw`,
+  and no need for the `rfl`. I'm confused! -/
   rfl
```
Comment (Ruben-VandeVelde) [inline Mathlib/LinearAlgebra/BilinearForm/Properties.lean:419]: On master, it works with `rw [@toDual_def]` but not without the `@`

Comment (semorrison) [reply Mathlib/LinearAlgebra/BilinearForm/Properties.lean:419]: Okay, propose we punt on this one and sort it out later.

**Comment by jcommelin** [comment]
bors d+

**Comment by semorrison** [comment]
bors merge

**Comment by semorrison** [comment]
bors p=10

**Comment by jcommelin** [comment]
bors merge

**Comment by jcommelin** [comment]
bors r-

needs merging master, @edegeltje is working on it

**Comment by edegeltje** [comment]
@jcommelin build succeeded, it should be ready to be merged

File: test/fun_prop_dev.lean [hunk 10]
```diff
@@ -185,6 +194,9 @@ example : Con (fun (f : α → β → γ) x y => f x y) := by fun_prop
 example : Con (fun (f : α → β → γ) y x => f x y) := by fun_prop
 example : Con (fun (f : α → α → α → α → α) y x => f x y x y) := by fun_prop
 
+-- set_option pp.notation false
+
+
```
Comment (jcommelin) [inline test/fun_prop_dev.lean:199]:
```suggestion
```

File: test/fun_prop_dev.lean [hunk 11]
```diff
@@ -266,6 +278,7 @@ example (f : β → γ) (g : α ->> β) (hf: Con f) : Con (fun x => f (g x)) :=
 example (f : β ->> γ) (g : α → β) (hg: Con g) : Con (fun x => f (g x)) := by fun_prop
 example (f : β -o γ) (g : α → β) (hg : Con g) : Con fun x => f (g x) := by fun_prop
 
+-- set_option trace.Meta.Tactic.fun_prop true in
```
Comment (jcommelin) [inline test/fun_prop_dev.lean:281]:
```suggestion
```

File: test/fun_prop_dev.lean [hunk 12]
```diff
@@ -42,7 +48,7 @@ set_option linter.unusedVariables false
 
 -- Lin is missing `const` theorem
 @[fun_prop] theorem Lin_id : Lin (fun x : α => x) := silentSorry
-@[fun_prop] theorem Lin_const {β} [Obj β] [Zero β] : Lin (fun x : α => (0 : β)) := silentSorry
+@[fun_prop] theorem Lin_const {β} [Zero β] : Lin (fun x : α => (0 : β)) := silentSorry
```
Comment (jcommelin) [inline test/fun_prop_dev.lean:51]: Why do you need to remove `Obj` here?

Comment (edegeltje) [reply test/fun_prop_dev.lean:51]: that's because it is not defined in this branch. it used to be there in master, but Thomas Skrivan who works on the tactic removed it for the port.

Comment (Parcly-Taxel) [reply test/fun_prop_dev.lean]: All fixed.

Comment (edegeltje) [reply test/fun_prop_dev.lean]: it *was* not defined on this branch

**Comment by jcommelin** [comment]
bors merge

File: Mathlib/Algebra/Homology/HomotopyCofiber.lean [hunk 13]
```diff
@@ -543,7 +545,7 @@ end cylinder
 
 /-- If a functor inverts homotopy equivalences, it sends homotopic maps to the same map. -/
 lemma _root_.Homotopy.map_eq_of_inverts_homotopyEquivalences
-    {φ₀ φ₁ : F ⟶ G} (h : Homotopy φ₀ φ₁) (hc : ∀ j, ∃ i, c.Rel i j)
+    {φ₀ φ₁ : F ⟶ G} (h : Homotopy φ₀ φ₁)(hc : ∀ j, ∃ i, c.Rel i j)
```
Comment (YaelDillies) [inline Mathlib/Algebra/Homology/HomotopyCofiber.lean:548]:
```suggestion
    {φ₀ φ₁ : F ⟶ G} (h : Homotopy φ₀ φ₁) (hc : ∀ j, ∃ i, c.Rel i j)
```
